US05861401
A solution of 2-biphenylsulphonyl chloride (0.31 g), 3-amino-6-chloropyridazine (0.5 g) in pyridine (5 ml) was stirred for 18 hours. Volatile material was removed by evaporation and 1M sodium hydroxide solution (4 ml) and methanol (10 ml) were added. The reaction mixture was stirred on a steam bath for 20 minutes and, after cooling, volatile material was again removed by evaporation. The residue was dissolved in water (100 ml) and acidified with concentrated hydrochloric acid to pH 1-2 and extracted with ethyl acetate (3×50 ml). The combined extracts were dried (MgSO4) and evaporated to give a solid. The solid was recrystallised twice from isopropanol to give 2-phenyl-N-(6-chloro-3-pyridazinyl)benzenesulphonamide (0.08 g), m.p. 196°-198° C.; mass spectrum (+ve FAB, methanol/dichloromethane/NBA): 346 (M+H)+.

reactant | 2-biphenylsulphonyl chloride | 0.31 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | 3-amino-6-chloropyridazine | 0.5 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-N-(6-chloro-3-pyridazinyl)benzenesulphonamide | 0.08 g | C1(=CC=CC=C1)C1=C(C=CC=C1)S(=O)(=O)NC=1N=NC(=CC1)Cl | C16H12ClN3O2S
